US04518597
8-Chloro-6-[4-(4-acetamido-phenylsulfinyl)-butoxy]-4H-3,1-benzoxazin-2-one
Prepared analogously to Example 2 from 8-chloro-6-[4-(4-acetamido-phenylmercapto)-butoxy]-4H-3,1-benzoxazin-2-one and hydrogen peroxide.

reactant | 8-chloro-6-[4-(4-acetamido-phenylmercapto)-butoxy]-4H-3,1-benzoxazin-2-one | ClC1=CC(=CC=2COC(NC21)=O)OCCCCSC2=CC=C(C=C2)NC(C)=O | C20H21ClN2O4S
reactant | hydrogen peroxide | OO | H2O2
product | 8-Chloro-6-[4-(4-acetamido-phenylsulfinyl)-butoxy]-4H-3,1-benzoxazin-2-one | ClC1=CC(=CC=2COC(NC21)=O)OCCCCS(=O)C2=CC=C(C=C2)NC(C)=O | C20H21ClN2O5S
